US08871943B2
6-(4-Chloro-2-fluoro-3-methoxyphenyl)-4,5-dichloro-2-pyridinecarbonyl chloride
A mixture of 33.5 g (˜95 mmol) of 6-(4-chloro-2-fluoro-3-methoxyphenyl)-4,5-dichloro-2-pyridinecarboxylic acid, 10.2 mL (140 mmol) of thionyl chloride, 0.1 mL of N,N-dimethylforamide (DMF) and 200 mL of toluene was heated at 75° C. for 5 h. The reaction progress was monitored by conversion of the acid chloride to its methyl ester (one drop of reaction mixture added to 5 drops of a 10% wt methanol solution containing 4-(dimethylamino)pyridine, briefly heating to reflux, dilution with acetonitrile and injection). LC analysis indicated 8 area % remaining carboxylic acid and 3 area % of an unidentified closely following product. Another 5 mL of thionyl chloride and 0.1 mL of DMF were added, and heating continued for an additional 2 h. LC analysis indicated methyl ester product, carboxylic acid gone with only the unidentified polar peak remaining After stirring at RT overnight, the reaction mixture was filtered to remove a small amount of an insoluble material. The filtrate was concentrated in vacuo, and toluene added twice and re-concentrated in vacuo to evaporate residual thionyl chloride. The white solid (38.6 g) was dried in a vacuum oven at 40° C. to give 33.3 g of title compound (mp 134-136° C.). LC internal standard analysis (conversion to its methyl ester as described above) indicated 98.1 wt %. EIMS m/e (relative intensity) 369 (4Cl, 80), 332 (3Cl, 38), 304 (3Cl, 82), 269 (2Cl, 100), 254 (2Cl, 30), 226 (2Cl, 73), 191 (30), 156 (46); 1H NMR (400 MHz, CDCl3) δ 8.23 (s, 1H), 7.32 (dd, J=8, 2 Hz, 1H), 7.15 (dd, J=8, 7 Hz, 1H), 4.02 (dd, J=1 Hz, 3H); 19F NMR (376 MHz, 1H decoupled, CDCl3) δ −126.83.

reactant | 6-(4-chloro-2-fluoro-3-methoxyphenyl)-4,5-dichloro-2-pyridinecarboxylic acid | ˜95 mmol, 33.5 g | ClC1=C(C(=C(C=C1)C1=C(C(=CC(=N1)C(=O)O)Cl)Cl)F)OC | C13H7Cl3FNO3
reactant | thionyl chloride | 140 mmol, 10.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.1 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | N,N-dimethylforamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 6-(4-Chloro-2-fluoro-3-methoxyphenyl)-4,5-dichloro-2-pyridinecarbonyl chloride | 33.3 g | ClC1=C(C(=C(C=C1)C1=C(C(=CC(=N1)C(=O)Cl)Cl)Cl)F)OC | C13H6Cl4FNO2
